US08119824B2
A mixture of ethanol and oleic acid triglyceride (ethanol: 0.1 mol, oleic acid triglyceride: 0.01 mol) was added with 0.2 g of the sulfonate-group-introduced amorphous carbon synthesized in Example 1, and the resulting mixture was maintained at 80° C. for 12 hours to produce ethyl oleate. The amount of ethyl oleate produced was quantified on a gas chromatography-mass spectrometer. The yield of ethyl oleate was 30%, and the rate of production of ethyl oleate was 10 to 100 times greater than that achieved using the same weight of each of already-existing solid strong acids (hydrated niobic acid, a polymeric solid acid “Nafion”, and a polymeric solid acid “Amberlyst-15”) as a catalyst.

reactant | oleic acid triglyceride | 0.1 mol | CCCCCCCC/C=C\CCCCCCCC(=O)OCC(OC(=O)CCCCCCC/C=C\CCCCCCCC)COC(=O)CCCCCCC/C=C\CCCCCCCC | C57H104O6
solvent | ethanol | C(C)O | C2H6O
product | ethyl oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC | C20H38O2
